US06492392B1
Under an argon atmosphere, 2-((E)-1-propenyl)bromobenzene (2.1 g, 11.0 mmol), methyl acrylate (4.5 mL, 50 mmol) and triethylamine (1 mL) were added to a solution (15 mL) of palladium (II) diacetate (11 mg, 0.05 mmol) and tris(2-methylphenyl)phosphine (60 mg, 0.2 mmol) in N,N-dimethylformamide, followed by stirring at 80° C. for 1 hour. Next, the reaction solution was filtered through Florisil, and the solvent contained in the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluted with ethyl acetate/hexane=1/10) to give methyl 2-((E)-1-propenyl)cinnamate (740 mg, yield 34%).

reactant | 2-((E)-1-propenyl)bromobenzene | 11.0 mmol, 2.1 g | C(=C\C)/C1=C(C=CC=C1)Br | C9H9Br
reactant | methyl acrylate | 50 mmol, 4.5 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium (II) diacetate | 0.05 mmol, 15 mL, 11 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | tris(2-methylphenyl)phosphine | 0.2 mmol, 60 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
product | methyl 2-((E)-1-propenyl)cinnamate | 740 mg, yield 34% | C(=C\C)/C1=C(C=CC(=O)OC)C=CC=C1 | C13H14O2
